US08580962B2
2-(4-Methylene-1-piperidyl)-3-nitropyridine (Compound 2a)
n-Butyllithium in hexanes (2.5 M, 4.93 mL, 12.3 mmol) was added dropwise over 10 min. into a suspension of 98% methyltriphenylphosphonium bromide (4.65 g, 12.8 mmol) in 40 mL of THF stirred at −70° C. After 0.5 h, a solution of 1-(3-nitro-2-pyridyl)-4-oxopiperidine (2 g, 8.5 mmol) in 16 mL of THF was added and the reaction mixture was allowed to warm up to r.t. After overnight resting, the mixture was quenched with an aqueous saturated solution of NH4Cl, extracted with EtOAc, dried over Na2SO4, evaporated to dryness in vacuo. The crude product was purified by automated flash chromatography (SP1®TM-Biotage) eluting with a Petroleum Ether-EtOAc gradient from 1:0 to 9:1 yielding 1.23 g of the title compound as yellow solid.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 1-(3-nitro-2-pyridyl)-4-oxopiperidine | 8.5 mmol, 2 g | [N+](=O)([O-])C=1C(=NC=CC1)N1CCC(CC1)=O | C10H11N3O3
catalyst | methyltriphenylphosphonium bromide | 12.8 mmol, 4.65 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 2-(4-Methylene-1-piperidyl)-3-nitropyridine | C=C1CCN(CC1)C1=NC=CC=C1[N+](=O)[O-] | C11H13N3O2
